US08445684B2
tert-Butyl 4-[2-[4-(Benzyloxy)phenoxy]ethyl]piperidine-1-carboxylate
A solution/suspension of tert-butyl 4-(2-bromoethyl)piperidine-1-carboxylate (1.22 g, 4.18 mmol), 4-(benzyloxy)phenol (1.01 g, 5.04 mmol, 1.20 equiv.), K2CO3 (830 mg, 6.01 mmol, 1.40 equiv.) and KI (75 mg, 0.45 mmol, 0.11 equiv.) in acetone was heated to reflux under N2 overnight. After cooling to room temperature, the mixture was diluted with 100 mL of EtOAc, and the solids were filtered off. The filtrate was concentrated under vacuum, and the residue was applied onto a silica gel column, which was eluted with ethyl acetate/petroleum ether (1:5) to afford the product (1.25 g, 73%) as a white solid. 1H NMR (CDCl3, 300 MHz) δ 7.43-7.29 (m, 5H), 6.90 (d, 2H, J=6.6 Hz), 5.01 (s, 2H), 4.08 (d, 2H, J=7.2 Hz), 3.95 (t, 1H, J=4.2 Hz), 2.70 (t, 2H, J=9.6 Hz), 1.71-1.69 (m, 5H), 1.45 (s, 9H), 1.20-1.15 (m, 2H). LC-MS (ESI) m/z 434 (M+Na+).

reactant | tert-butyl 4-(2-bromoethyl)piperidine-1-carboxylate | 4.18 mmol, 1.22 g | BrCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H22BrNO2
reactant | 4-(benzyloxy)phenol | 5.04 mmol, 1.01 g, 1.20 equiv. | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | K2CO3 | 6.01 mmol, 830 mg, 1.40 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-[2-[4-(Benzyloxy)phenoxy]ethyl]piperidine-1-carboxylate | 1.25 g, 73% | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H33NO4
